US09287553B2
A mixed solution of 1 mole of manganese acetate, ethanol, and water was prepared. This mixed solution and Ketjen Black (KB) were introduced into a rotary reactor, the inner tube was rotated at a centrifugal force of 66,000 N (kgms−2) for 5 minutes to form a thin film of the reactant on the inner wall of the outer tube, and sheer stress and centrifugal force were applied to the reactant to allow promotion of chemical reaction, yielding KB supporting highly dispersed manganese oxide precursor.

reactant | ethanol | C(C)O | C2H6O
reactant | manganese oxide | [O-2].[Mn+2]
solvent | water | O | H2O
product | manganese acetate | 1 mole | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-] | InChI=1S/2C2H4O2.Mn/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
